US07790793B2
Preparation of N-cyclopentyl-3,5-bis(cyclohexanecarbonylamino)benzamide
from 0.62 g (2.83 mmol) of 3,5-diamino-N-cyclopentylbenzamide, 0.97 g (6.62 mmol) of cyclohexanecarbonylchloride, 30 ml of NMP, 5 ml of pyridine and 0.05 g of LiCl according to Method A

reactant | 3,5-diamino-N-cyclopentylbenzamide | 2.83 mmol, 0.62 g | NC=1C=C(C(=O)NC2CCCC2)C=C(C1)N | C12H17N3O
reactant | cyclohexanecarbonylchloride | 6.62 mmol, 0.97 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | NMP | 30 ml | CN1CCCC1=O | C5H9NO
reactant | LiCl | 0.05 g | [Li+].[Cl-]
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-cyclopentyl-3,5-bis(cyclohexanecarbonylamino)benzamide | C1(CCCC1)NC(C1=CC(=CC(=C1)NC(=O)C1CCCCC1)NC(=O)C1CCCCC1)=O | C26H37N3O3
